US07902226B2
2,3,4-trichlorobenzoic acid
Sodium hydroxide (45.42 g, 1.090 mol) was dissolved in water (220 ml), and while cooling with ice, bromine (16.85 ml, 0.327 mol) was dripped therein over a period of 5 minutes. After stirring the reaction solution at 0° C. for 15 minutes, a dioxane (220 ml) solution of 2′,3′,4′-trichloroacetophenone (24.40 g, 0.109 mol) was dripped therein at 0° C. over a period of 30 minutes. After stirring at room temperature for 14 hours, water (350 ml) was added and then washed with dichloromethane (350 ml). The aqueous layer obtained was gradually made acidic with concentrated hydrochloric acid while cooling with ice and the resulting crystals were filtered out. After washing the filtered-out crystals with water, the water was removed by azeotropic distillation with toluene. 22.33 g (91%) of the title compound was thereby obtained as a pale yellow powder.

reactant | Sodium hydroxide | 1.090 mol, 45.42 g | [OH-].[Na+]
reactant | bromine | 0.327 mol, 16.85 ml | BrBr | Br2
reactant | 2′,3′,4′-trichloroacetophenone | 0.109 mol, 24.40 g | ClC1=C(C=CC(=C1Cl)Cl)C(C)=O | C8H5Cl3O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 220 ml | O | H2O
solvent | water | 350 ml | O | H2O
solvent | dioxane | 220 ml | O1CCOCC1 | C4H8O2
product | 2,3,4-trichlorobenzoic acid | 22.33 g, 91% | ClC1=C(C(=O)O)C=CC(=C1Cl)Cl | C7H3Cl3O2
